US08222248B2
(3-{3,5-Dimethyl-4-[6-(quinolin-2-ylcarbamoyl)-1H-benzoimidazol-2-yl]-phenyl}-propyl)-phosphonic acid monoethyl ester
To a solution of (3-{3,5-dimethyl-4-[6-(quinolin-2-ylcarbamoyl)-1H-benzoimidazol-2-yl]-phenyl}-propyl)-phosphonic acid diethyl ester (40 mg, 0.07 mmol) in CH2Cl2 (5 mL) was added TMSBr (0.045 mL, 0.35 mol). The solution was stirred at ambient temperature until monohydrolysis occurred (5 h). The solvent was removed under reduced pressure and the residue was purified by HPLC to give the title compound as a white solid. 1H NMR (Methanol-d4, 400 MHz): δ 8.41 (m, 3H), 8.08 (dd, 1H), 7.94 (dd, 2H), 7.81 (d, 1H), 7.77 (m, 1H), 7.56 (m, 1H), 7.10 (s, 2H), 3.97 (m, 2H), 2.75 (t, 2H), 2.18 (s, 6H), 1.97 (m, 2H), 1.68 (m, 2H), 1.29 (t, 3H). MS (m/z) 543.2 (M+1); Retention time: 1.17 min (method 10).

reactant | (3-{3,5-dimethyl-4-[6-(quinolin-2-ylcarbamoyl)-1H-benzoimidazol-2-yl]-phenyl}-propyl)-phosphonic acid diethyl ester | 0.07 mmol, 40 mg | C(C)OP(OCC)(=O)CCCC1=CC(=C(C(=C1)C)C1=NC2=C(N1)C=C(C=C2)C(NC2=NC1=CC=CC=C1C=C2)=O)C | C32H35N4O4P
reactant | TMSBr | 0.35 mol, 0.045 mL | C[Si](C)(C)Br | C3H9BrSi
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | (3-{3,5-Dimethyl-4-[6-(quinolin-2-ylcarbamoyl)-1H-benzoimidazol-2-yl]-phenyl}-propyl)-phosphonic acid monoethyl ester | C(C)OP(O)(=O)CCCC1=CC(=C(C(=C1)C)C1=NC2=C(N1)C=C(C=C2)C(NC2=NC1=CC=CC=C1C=C2)=O)C | C30H31N4O4P
